US06706705B1
(1) Synthesis of 1-benzyl-4-(3,5-di-t-butyl-4-hydroxy-benzoyl)piperazine
Under nitrogen atmosphere, 3,5-di-t-butyl-4-hydroxy-benzoic acid (3.10 g, 12.4 mmol.) and 1-benzylpiperazine (2.00 g, 11.3 mmol.) were dissolved in dichloromethane. Under chilling with ice, to this solution was portionwise added 1-(3-dimethylaminopropyl) -3-ethylcarbodiimide hydrochloride (2.87 g, 15.0 mmol.), and the resulting mixture was stirred overnight at room temperature. The reaction mixture was washed successively with saturated aqueous sodium hydrogen carbonate and water, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=20/1), to give the desired compound as an amorphous product (5.08 g, yield: 100%).

reactant | 3,5-di-t-butyl-4-hydroxy-benzoic acid | 12.4 mmol, 3.10 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | 1-benzylpiperazine | 11.3 mmol, 2.00 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 1-(3-dimethylaminopropyl) -3-ethylcarbodiimide hydrochloride | 15.0 mmol, 2.87 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-benzyl-4-(3,5-di-t-butyl-4-hydroxy-benzoyl)piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C26H36N2O2
